US07371743B2
(b) 3-chloro-4-(1,1-dioxo-[1,2]thiazinan-2-yl)-toluene
1.27 g (4.29 mmol) 2-chloro-N-(4-chlorbutyl-sulphonyl)-4-methyl-aniline are stirred together with 722 mg (6.43 mmol) potassium-tert.-butoxide in 50 ml DMF for 16 hours at 60° C. Then the reaction mixture is poured into water and extracted with ethyl acetate. The combined organic phases are dried over sodium sulphate and evaporated down i. vac. The residue is purified by chromatography on silica gel (eluant: petroleum ether/ethyl acetate=3:2).

reactant | 2-chloro-N-(4-chlorbutyl-sulphonyl)-4-methyl-aniline | 4.29 mmol, 1.27 g | ClC1=C(NS(=O)(=O)CCCCCl)C=CC(=C1)C | C11H15Cl2NO2S
reactant | potassium tert.-butoxide | 6.43 mmol, 722 mg | [K].CC(C)([O-])C
reactant | water | O | H2O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 3-chloro-4-(1,1-dioxo-[1,2]thiazinan-2-yl)-toluene | ClC=1C=C(C=CC1N1S(CCCC1)(=O)=O)C | C11H14ClNO2S
